US09278983B2
To a mixture of 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (98 mg) and DMF (6 ml), 60% of sodium hydride (in oil) (29 mg) and chloromethyl methyl ether (25 μl) were sequentially added under ice-cooling. The mixture was heated room temperature, and stirred for 4 hours. Then, water was poured thereinto, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 72 mg of 3-methoxymethyl-2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 37).

reactant | 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 98 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1 | C15H12F3N3S
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 29 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 25 μl | COCCl | C2H5ClO
solvent | water | O | H2O
product | 3-methoxymethyl-2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 72 mg | COCN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SCC | C17H16F3N3OS
